US08431695B2
Intermediate A A: Preparation of 2-methylpyrrolo[2,1-f][1,2,4]triazin-4-amine
A mixture of 1-amino-1H-pyrrole-2-carbonitrile hydrochloride (2.77 g, 19.3 mmol), potassium phosphate (21.11 g, 96.5 mmol), acetamidine hydrochloride (9.6 g, 96.5 mmol) and 1-butanol (166 mmol) was refluxed under nitrogen atmosphere. After 166.5 h of reflux, the mixture was allowed to cool to rt, and was then partitioned between ethyl acetate and water. The phases were separated, and the organic phase was extracted with 1N aqueous hydrochloric acid. The acid extracts were made basic (pH>7) and extracted with ethyl acetate. After washing the organic layers with water and brine, drying (anhydrous sodium sulfate) and concentration afforded 1.63 g (57%) of solid. 1H-NMR (CD2Cl2): δ 7.51 (m, 1 H), 6.40 (m, 2 H), 6.72 (br s, 2 H), 2.32 (s, 3 H). MS: LC/MS (+esi), m/z=149 [M+H]. RT=1.12 min.

reactant | 1-amino-1H-pyrrole-2-carbonitrile hydrochloride | 19.3 mmol, 2.77 g | Cl.NN1C(=CC=C1)C#N
reactant | potassium phosphate | 96.5 mmol, 21.11 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | acetamidine hydrochloride | 96.5 mmol, 9.6 g | Cl.C(C)(=N)N
reactant | 1-butanol | 166 mmol | C(CCC)O | C4H10O
product | 2-methylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 1.63 g, 57% | CC1=NN2C(C(=N1)N)=CC=C2 | C7H8N4
